US06573293B2
{[4-Methyl-5-(4-methyl-5-methylsulfamoyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carbonyl]-amino}-acetic Acid Ethyl Ester
4-Methyl-5-methylaminosulfonyl-2-oxindole (50 mg, 0.21 mmol) was condensed with [(5-formyl-4-methyl-1H-pyrrole-3-carbonyl)-amino]-acetic acid ethyl ester (100 mg, 0.42 mmol) and piperidine (0.1 mL) in ethanol (2 mL) to give 50 mg (52%) of the title compound.

reactant | 4-Methyl-5-methylaminosulfonyl-2-oxindole | 0.21 mmol, 50 mg | CC1=C2CC(NC2=CC=C1S(=O)(=O)NC)=O | C10H12N2O3S
reactant | [(5-formyl-4-methyl-1H-pyrrole-3-carbonyl)-amino]-acetic acid ethyl ester | 0.42 mmol, 100 mg | C(C)OC(CNC(=O)C1=CNC(=C1C)C=O)=O | C11H14N2O4
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | {[4-Methyl-5-(4-methyl-5-methylsulfamoyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carbonyl]-amino}-acetic Acid Ethyl Ester | 50 mg, 52% | C(C)OC(CNC(=O)C1=CNC(=C1C)C=C1C(NC2=CC=C(C(=C12)C)S(NC)(=O)=O)=O)=O | C21H24N4O6S
